US09422292B2
A solution of bromo-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (30 mg, 0.11 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (48 mg, 0.22 mmol), Tetrakis(triphenylphosphine)palladium(0) (10 mg) and Cs2CO3 (72 mg, 0.22 mmol) in dioxane (5 mL) and water (1 mL) was heated at 120° C. under microwave for 20 min. The reaction mixture was concentrated to give the crude product, which was purified by prep-TLC (DCM:MeOH=10:1) to afford 5-(1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine (21 mg, yield 55%).

reactant | bromo-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.11 mmol, 30 mg | BrC1C=2N(C3=C(NC1)C=CC=C3)C(=NN2)C | C11H11BrN4
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.22 mmol, 48 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | Cs2CO3 | 0.22 mmol, 72 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine | 21 mg, yield 55% | CC1=NN=C2N1C1=C(NCC2)C=C(C=C1)C=1C=CC(=NC1)N | C16H16N6
